US05998415
Step 1: 2-(Phenylethylamino)ethyl carbamic acid tert-butyl ester
A solution of phenylethylamine hydrochloride (2.88 g, 0.018 mol) and 2-bromo-N-tert-butyloxycarbonylethylamine (4.1 g, 0.018 mmol) in DMF (50 mL), containing K2CO3 (5.0 g, 0.036 mol), was heated at 60° C. for 4 h. The solution was filtered, evaporated and the residue partitioned between CH2Cl2 (2×100 mL) and water (100 mL). The combined organic layers were dried (Na2SO4) and evaporated. The residue was chromatographed on silica gel, eluting with CH2Cl2 :MeOH (90:10), to afford the title compound (1.44 g, 30%) as a colourless oil. 1H NMR (250 MHz, CDCl3) δ 1.44 (9H, s), 2.74 (2H, t, J=6.0Hz), 2.79 (2H, m), 2.88 (2H, m), 3.19 (2H, m), 4.87 (1H, br s), 7.19-7.22 (3H, m), 7.26-7.31 (2H, m). MS (ES+) (265, M+1).

reactant | phenylethylamine hydrochloride | 0.018 mol, 2.88 g | Cl.C1(=CC=CC=C1)CCN
reactant | 2-bromo-N-tert-butyloxycarbonylethylamine | 0.018 mmol, 4.1 g | BrC(CN)C(=O)OC(C)(C)C | C7H14BrNO2
reactant | K2CO3 | 0.036 mol, 5.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(Phenylethylamino)ethyl carbamic acid tert-butyl ester | 1.44 g, 30% | C(C)(C)(C)OC(NCCNCCC1=CC=CC=C1)=O | C15H24N2O2
